US09340549B2
To a suspension of 2-amino-2-(2-fluorophenyl)acetic acid (commercially available from Sigma-Aldrich, Milwaukee, Wis.) (2 g, 11.8 mmol) in MeOH (40 mL) was added thionyl chloride (1.54 g, 13 mmol) dropwise at −10° C. The resulting reaction mixture was stirred for 12 hours at reflux. After completion of the reaction (monitored by TLC, TLC system: 50% EtOAc in hexane), the reaction mixture was cooled to ambient temperature and then concentrated under reduced pressure. The residue was recrystallized with MeOH and diethyl ether to afford 1-(2-fluorophenyl)-2-methoxy-2-oxoethanaminium chloride, 2.5 g (96.30%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 9.12 (s, 3H), 7.60-7.50 (m, 2H), 7.36-7.29 (m, 2H), 5.45 (s, 1H), 3.73 (s, 3H). m/z (ESI) 184.2 (M+H)+.

reactant | 2-amino-2-(2-fluorophenyl)acetic acid | NC(C(=O)O)C1=C(C=CC=C1)F | C8H8FNO2
reactant | thionyl chloride | 13 mmol, 1.54 g | S(=O)(Cl)Cl | Cl2OS
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | MeOH | 40 mL | CO | CH4O
solvent | hexane | CCCCCC | C6H14
product | 1-(2-fluorophenyl)-2-methoxy-2-oxoethanaminium chloride | [Cl-].FC1=C(C=CC=C1)C(C(=O)OC)[NH3+] | InChI=1S/C9H10FNO2.ClH/c1-13-9(12)8(11)6-4-2-3-5-7(6)10;/h2-5,8H,11H2,1H3;1H
